US06541484B2
(d) 5-Methyl-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-1-phenyl-1H-pyrazolo[3,4-b]pyridine
To a de-gassed solution of 5-bromo-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-1-phenyl-1H-pyrazolo[3,4-b]pyridine (84 mg, 0.22 mmol) in N,N-dimethylacetamide (2 ml) was added tetramethyltin (60 μl, 0.43 mmol) followed by dichlorobis(tri-ortho-tolylphosphine)palladium(II) (8.6 mg, 0.01 mmol). The reaction mixture was heated at 90° C. in a sealed tube for 20 h. The mixture was allowed to cool, quenched with saturated aqueous ammonium chloride solution and the product extracted into diethyl ether (×3). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. Purification by preparative thin layer chromatography, eluting with 55% ethyl acetate-hexane, afforded the title compound as a white solid (20 mg, 29%), m.p. 145-146° C. δH (400 MHz; CDCl3) 2.32 (3H, s), 3.96 (3H, s), 5.66 (2H, s), 7.31 (1H, t, J=7), 7.50-7.54 (2H, m), 7.82 (1H, s), 7.91 (1H, s), 8.02 (1H, s), 8.19-8.22 (2H, m); m/z (ES+) 321 (M+H+).

reactant | 5-bromo-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-1-phenyl-1H-pyrazolo[3,4-b]pyridine | 0.22 mmol, 84 mg | BrC=1C=C2C(=NC1OCC=1N(N=CN1)C)N(N=C2)C2=CC=CC=C2 | C16H13BrN6O
reactant | tetramethyltin | 0.43 mmol, 60 μl | C[Sn](C)(C)C
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
catalyst | dichlorobis(tri-ortho-tolylphosphine)palladium(II) | 0.01 mmol, 8.6 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C.Cl[Pd]Cl
product | 5-Methyl-6-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)-1-phenyl-1H-pyrazolo[3,4-b]pyridine | 20 mg, 29% | CC=1C=C2C(=NC1OCC=1N(N=CN1)C)N(N=C2)C2=CC=CC=C2 | C17H16N6O
